US04503063
(B) 3-Carbamoyl-2-(2,4-dichlorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol
To a solution of 2-(2,4-dichlorophenyl)-3-ethoxycarbonyl-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol (75 mg) in ethanol (5 ml), aqueous ammonia (sp. gr. 0.88, 12 ml.) was added and the solution was left at room temperature (20° C.) for eight days. The solvent was then evaporated in vacuo, the residue was partitioned between methylene chloride and water, and the organic extracts were washed with brine and dried (MgSO4). Removal of solvent followed by flash chromatography on silica (30 g) and elution with a mixture of methylene chloride/methanol/ammonia (93:7:1) gave the title compound, m.p. 162°-163° C. (34.5 mg).

reactant | 2-(2,4-dichlorophenyl)-3-ethoxycarbonyl-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | 75 mg | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(C(C)(C)C(=O)OCC)O | C16H19Cl2N3O3
reactant | ammonia | 12 ml | N | H3N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-Carbamoyl-2-(2,4-dichlorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | C(N)(=O)C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl)(C)C | C14H16Cl2N4O2
